US07365085B2
e. N-(2-[3-Chlorophenyl]-propyl)-N-(2-chloro-3-trifluoromethylbenzyl)-3-(3-carboxymethylenephenoxy)propylamine, hydrochloride
The titled compound was prepared from N-(2-[3-Chlorophenyl]-propyl)-N(2-chloro-3-trifluoromethylbenzyl)-3-(3-carbomethoxymethylenephenoxy)propylamine in 48% yield in the same manner as the preparation of N-(2-[2-Chlorophenyl]-propyl)-N-(2-chloro-3-trifluoromethylbenzyl)-3-(3-carboxymethylenephenoxy)propylamine in Example 184g. MS (ESI) 554 (MH+).

reactant | N-(2-[3-Chlorophenyl]-propyl)-N(2-chloro-3-trifluoromethylbenzyl)-3-(3-carbomethoxymethylenephenoxy)propylamine | ClC=1C=C(C=CC1)C(CN(CC1=C(C(=CC=C1)C(F)(F)F)Cl)CCCOC=1CC(C=CC1)=CC(=O)OC)C | C29H30Cl2F3NO3
reactant | N-(2-[2-Chlorophenyl]-propyl)-N-(2-chloro-3-trifluoromethylbenzyl)-3-(3-carboxymethylenephenoxy)propylamine | ClC1=C(C=CC=C1)C(CN(CC1=C(C(=CC=C1)C(F)(F)F)Cl)CCCOC=1CC(C=CC1)=CC(=O)O)C | C28H28Cl2F3NO3
product | N-(2-[3-Chlorophenyl]-propyl)-N-(2-chloro-3-trifluoromethylbenzyl)-3-(3-carboxymethylenephenoxy)propylamine, hydrochloride | 48% yield | Cl.ClC=1C=C(C=CC1)C(CN(CC1=C(C(=CC=C1)C(F)(F)F)Cl)CCCOC=1CC(C=CC1)=CC(=O)O)C | InChI=1S/C28H28Cl2F3NO3.ClH/c1-19(21-7-3-9-23(29)16-21)17-34(18-22-8-4-11-25(27(22)30)28(31,32)33)12-5-13-37-24-10-2-6-20(14-24)15-26(35)36;/h2-4,6-11,15-16,19H,5,12-14,17-18H2,1H3,(H,35,36);1H
